US07342021B2
6-Cyclopropylamino-2-trifluoromethylpurine
A mixture of 12 g (54 mmol) of 6-chloro-2-trifluoromethylpurine, 30 g (540 mmol) of cyclopropylamine and 250 mL of ethanol was stirred at room temperature for 4.5 days leaving a white solid. The mixture was concentrated in vacuo to dryness, 215 mL of H2O was added and the mixture was stirred for 1 hour. The product was collected by filtration and after drying (vacuum oven, 50° C., 5 hours) 8.1 g of product was obtained, 62% yield. M.P. 260° C. (dec.); 1H NMR (CD3OD) δ 8.18 (s, 1H), 3.30 (bs, 1H), 0.904 (m, 2H), 0.67 (m, 2H).

reactant | 6-chloro-2-trifluoromethylpurine | 54 mmol, 12 g | ClC1=C2NC=NC2=NC(=N1)C(F)(F)F | C6H2ClF3N4
reactant | cyclopropylamine | 540 mmol, 30 g | C1(CC1)N | C3H7N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 6-Cyclopropylamino-2-trifluoromethylpurine | 62% yield | C1(CC1)NC1=C2NC=NC2=NC(=N1)C(F)(F)F | C9H8F3N5
